US08247431B2
Step 2: Preparation of (6-chloro-4-methyl-pyridin-3-yl)-carbamic acid tert-butyl ester
(6-Chloro-pyridin-3-yl)-carbamic acid tert-butyl ester (14.11 g) was dissolved in dry diethyl ether (310 mL), N,N,N′,N′-tetramethyl-ethylene-1,2-diamine (23.1 mL) was added. The solution was cooled to −78° C., n-butyl lithium (97 mL, 1.59 M in hexane) was added, the cool bath replaced by an ice/sodium chloride cool bath and the suspension was stirred for 2 h at −10° C. The suspension was cooled again to −78° C. and methyl iodide (5.8 mL) was added slowly. The cool bath was removed and the reaction was quenched after 1 h by addition of water. Ethyl acetate was added and the mixture was neutralized by addition of 2 M hydrochloric acid. The layers were separated and the aqueous layer was extracted 2× with ethyl acetate, the combined organic layer was washed with brine, dried over magnesium sulfate and concentrated in vacuum. The residue was purified by column chromatography (silica 60, hexane/ethyl acetate 5:1, Rf=0.10) to afford 4.24 g of the title compound of the formula

reactant | (6-Chloro-pyridin-3-yl)-carbamic acid tert-butyl ester | 14.11 g | C(C)(C)(C)OC(NC=1C=NC(=CC1)Cl)=O | C10H13ClN2O2
reactant | n-butyl lithium | 1.59 M, 97 mL | C(CCC)[Li]
reactant | methyl iodide | 5.8 mL | CI | CH3I
solvent | diethyl ether | 310 mL | C(C)OCC | C4H10O
product | (6-chloro-4-methyl-pyridin-3-yl)-carbamic acid tert-butyl ester | 4.24 g | C(C)(C)(C)OC(NC=1C=NC(=CC1C)Cl)=O | C11H15ClN2O2
